* source I-COMPARADOR-01
M_M1         N64838 IN- N65068 0 CMOSN  
+ L=1u  
+ W=458u         
M_M2         N65362 IN+ N65068 0 CMOSN  
+ L=1u  
+ W=458u         
V_VDD         N64870 0 3.3
M_M10         N65498 N65362 N64870 N64870 CMOSP  
+ L=1u  
+ W=4.306u         
M_M3         N64838 N64838 N64870 N64870 CMOSP  
+ L=2u  
+ W=2u         
V_VBIAS         N65118 0 .45
M_M8         N65498 N65362 0 0 CMOSN  
+ L=2u  
+ W=2u         
M_M4         N65362 N64838 N64870 N64870 CMOSP  
+ L=2u  
+ W=2u         
V_VQ+         IN+ 0 1
M_M11         N66527 N65498 N64870 N64870 CMOSP  
+ L=1u  
+ W=4.306u         
M_M5         N65068 N65118 0 0 CMOSN  
+ L=2u  
+ W=2u         
V_VQ-         IN- 0 1
M_M9         N66527 N65498 0 0 CMOSN  
+ L=2u  
+ W=2u         
